US08293737B2
b) Ethyl 3-(2,5-dichloropyridin-4-yl)-3-oxopropionoate
A mixture of 2,5-dichloropyridine-4-carboxylic acid (2 g) and SOCl2 (10 ml) and 1 drop of DMF were heated under reflux for 2 h, and all SOCl2 and DMF removed under reduced pressure to give the crude acid chloride as the remaining residue. Separately, a suspension of potassium ethyl malonate (5 g) in acetonitrile (100 ml) was cooled to 0° C., magnesium chloride (4 g) and triethylamine (4 ml) were added, the ice bath removed and the reaction stirred at RT for 3 h. A solution of the crude acid chloride in DCM (25 ml) was carefully added to the malonate slurry and the resulting mixture stirred at RT overnight. Aqueous HCl (100 ml, 1M) was added and stiffing continued for 1 h. This mixture was then extracted with diethyl ether (200 ml×3), the organic layer washed with saturated sodium bicarbonate (200 ml×2) and brine (200 ml), dried over anhydrous magnesium sulfate, filtered and concentrated. The title compound was obtained as light yellow oil (1.6 g) which was on-reacted without further purification and without further characterization other than ascertaining that the compound was one spot by tlc with the expected molecular weight (M−1) of 260.

reactant | 2,5-dichloropyridine-4-carboxylic acid | 2 g | ClC1=NC=C(C(=C1)C(=O)O)Cl | C6H3Cl2NO2
reactant | SOCl2 | 10 ml | O=S(Cl)Cl | Cl2OS
reactant | potassium ethyl malonate | 5 g | C(CC(=O)[O-])(=O)OCC.[K+]
reactant | magnesium chloride | 4 g | [Cl-].[Mg+2].[Cl-]
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | Ethyl 3-(2,5-dichloropyridin-4-yl)-3-oxopropionoate | ClC1=NC=C(C(=C1)C(CC(=O)OCC)=O)Cl | C10H9Cl2NO3
